US06638936B1
2-bromo-5-trifluoromethylphenol
To a stirred solution of 61.65 gm (0.38 mole) 3-trifluoromethylphenol in 240 mL carbon disulfide were added 19.6 mL (0.38 mole) bromine dropwise. The reaction mixture was stirred at room temperature for about 18 hours and was then partitioned between 200 mL dichloromethane and 100 mL water. The organic phase was washed with 20 mL saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with dichloromethane containing 40% hexane. Fractions containing product were combined and concentrated under reduced pressure to provide 48.8 gm (53%) of the desired compound as a yellow oil.

reactant | 3-trifluoromethylphenol | 0.38 mole, 61.65 gm | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | bromine | 0.38 mole, 19.6 mL | BrBr | Br2
solvent | carbon disulfide | 240 mL | C(=S)=S | CS2
product | 2-bromo-5-trifluoromethylphenol | 48.8 gm, 53% | BrC1=C(C=C(C=C1)C(F)(F)F)O | C7H4BrF3O
